US07067540B2
Step 1: Preparation of 1-(4-fluorobenzyl)-4-[(4-fluorobenzyl)amino]-6-methylpyridin-2(1H)-one
A mixture of 4-hydroxy-6-methylpyrone (5.0 g, 0.04 mol) and 4-fluorobenzylamine (10.0 g. 0.08 mol) in n-butanol (25.0 mL) was heated to reflux for 24 hours under argon atmosphere. The resulting solution was concentrated to dryness under reduced pressure. The residue was triturated with ethyl acetate and filtered. It was thoroughly washed with ethyl acetate and dried to afford the title compound as a pale yellow powder (4.1 g. 30%). 1H-NMR (CD3OD, 400 MHz) δ 7.33 (q, 2H), 7.04 (m, 5H), 5.85 (d, 1H, J=2.0 Hz), 5.44 (d, 2H, J=2.4 Hz), 5.20 (s, 1H), 4.29 (s, 2H), 2.17 (s, 3H); ES-HRMS m/z 341.1488 (M+H calculated for C20H19N2OF2 requires 341.1460).

reactant | 4-hydroxy-6-methylpyrone | 0.04 mol, 5.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 4-fluorobenzylamine | 0.08 mol, 10.0 g | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | n-butanol | 25.0 mL | C(CCC)O | C4H10O
product | 1-(4-fluorobenzyl)-4-[(4-fluorobenzyl)amino]-6-methylpyridin-2(1H)-one | 4.1 g, 30% | FC1=CC=C(CN2C(C=C(C=C2C)NCC2=CC=C(C=C2)F)=O)C=C1 | C20H18F2N2O
